US07022855B2
2-Ethyl-3-methyl-4-cyclopropanecarbonyloxy-5,6-difluoroquinoline (1 g) prepared as described in Example 1 was dissolved in 10 ml of methanol to prepare a solution. A solution of 0.5 g of sodium hydroxide in 10 ml of water was added to this solution, and the mixture was stirred at 50° C. for 3 hr. The reaction solution was allowed to stand for cooling and was then poured into 50 ml of water, and the mixture was neutralized with 1 N hydrochloric acid. The precipitate was then collected by filtration to give 700 mg of 2-ethyl-3-methyl-4-hydroxy-5,6-difluoroquinoline. In 20 ml of tetrahydrofuran was suspended in 96 mg of 60% sodium hydride. The 2-ethyl-3-methyl-4-hydroxy-5,6-difluoroquinoline (starting material 1) (446 mg) was suspended in 10 ml of tetrahydrofuran, and this suspension of starting material 1 was added dropwise to the above suspension under ice cooling. The mixture was stirred for one hr, 200 mg of acetyl chloride (starting material 2) was then added thereto, and the mixture was stirred at room temperature for 4.5 hr. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine and was then dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under the reduced pressure. The crude product thus obtained was purified on Wako Gel C-200 (100 ml; elution solvent=n-hexane-ethyl acetate (10:1)) to give 424 mg of 2-ethyl-3-methyl-4-acetyloxy-5,6-difluoroquinoline (compound 12). 1H-NMR data are shown in Table 3.

reactant | 2-Ethyl-3-methyl-4-cyclopropanecarbonyloxy-5,6-difluoroquinoline | 1 g | C(C)C1=NC2=CC=C(C(=C2C(=C1C)OC(=O)C1CC1)F)F | C16H15F2NO2
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-ethyl-3-methyl-4-hydroxy-5,6-difluoroquinoline | 700 mg | C(C)C1=NC2=CC=C(C(=C2C(=C1C)O)F)F | C12H11F2NO
